US04885022
(5) 3-Methoxycarbonyl-2-methyl-4-methylthiobenzoic acid
While maintaining a solution comprising 20.0 g of methyl 3-iodo-2-methyl-6-methylthiobenzoate and 70 ml of dried tetrahydrofuran at a temperature of not higher than -60° C. under a nitrogen atmosphere, 42 ml of a 1.5M n-butyllithium n-hexane solution was dropwise added thereto. Fifteen minutes later, dried carbon dioxide gas was thoroughly blown into the mixture while maintaining it at a temperature of not higher than -50° C. After purging carbon dioxide gas with nitrogen, 12.7 g of diisopropylamine was dropwise added thereto, and the mixture was stirred until the temperature reached room temperature. The mixture was concentrated under reduced pressure. Water was added thereto and the mixture was washed with chloroform. The aqueous solution was acidified with concentrated hydrochloric acid and then extracted with chloroform. The extract was dried over anhydrous sodium sulfate. The solvent was distilled off to obtain 7.5 g of the desired product. Melting point: 178°-178.5° C.

reactant | methyl 3-iodo-2-methyl-6-methylthiobenzoate | 20.0 g | IC=1C(=C(C(=S)OC)C(=CC1)C)C | C10H11IOS
reactant | n-butyllithium n-hexane | 1.5M | CCCCCC.C(CCC)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 3-Methoxycarbonyl-2-methyl-4-methylthiobenzoic acid | 7.5 g | COC(=O)C=1C(=C(C(=S)O)C=CC1C)C | C11H12O3S
